US04005150
To 210 ml. of a 0.5M solution of sodium metaperiodate (aqueous methanol 1:1) at 0° is added 0.1 mol of 7-ethoxy-3,7-dimethyloctyl p-nitrophenyl sulfide. The mixture is stirred at 0° for 4 hours and then filtered to remove precipitated sodium iodate. The filtrate is diluted with water and then extracted with chloroform. The extract is dried over magnesium sulfate and solvent removed by evaporation to yield 7-ethoxy-3,7-dimethyloctyl p-nitrophenyl sulfoxide.

reactant | sodium metaperiodate | I(=O)(=O)(=O)[O-].[Na+]
reactant | 7-ethoxy-3,7-dimethyloctyl p-nitrophenyl sulfide | 0.1 mol | [N+](=O)([O-])C1=CC=C(C=C1)SCCC(CCCC(C)(C)OCC)C | C18H29NO3S
product | 7-ethoxy-3,7-dimethyloctyl p-nitrophenyl sulfoxide | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)CCC(CCCC(C)(C)OCC)C | C18H29NO4S
